US07612114B2
(R)-6-{2-{[4-(2-Dimethylamino-2-methylpropoxy)-3-fluorobenzyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 4-(2-dimethylamino-2-methylpropoxy)-3-fluorobenzaldehyde (55 mg) according to an analogous synthetic method to Example 264 and purified by LC-MS, the title compound (10 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 4-(2-dimethylamino-2-methylpropoxy)-3-fluorobenzaldehyde | 55 mg | CN(C(COC1=C(C=C(C=O)C=C1)F)(C)C)C | C13H18FNO2
product | (R)-6-{2-{[4-(2-Dimethylamino-2-methylpropoxy)-3-fluorobenzyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 10 mg | CN(C(COC1=C(C=C(CCCNC2=C(C=C(C(=C2)OC)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1)F)(C)C)C | C33H43FN2O4
